US04587256
Into 2.5 ml of fuming nitric acid (96%, d 1.50), which had been cooled to -20° C. while stirring, there was introduced rapidly 500 mg of (±)-6-fluoro-2,3-dihydrospiro[4H-1-benzopyran-4,5'-thiazolidine]-2',4'-dione so that the temperature did not exceed -15° C. After stirring at -20° C. for 3 minutes, there was obtained a clear solution which was then poured immediately on to 15 ml of ice-water. After stirring briefly, the resulting precipitate was filtered, washed with cold water and dried. There was obtained (±)-6-fluoro-8-nitro-2,3-dihydrospiro[4H-1-benzopyran-4,5'-thiazolidine]-2',4'-dione in the form of yellow crystals which melted at 192°-194° C. after recrystallization from ethyl acetate/hexane.

reactant | nitric acid | 2.5 ml | [N+](=O)(O)[O-] | HNO3
reactant | (±)-6-fluoro-2,3-dihydrospiro[4H-1-benzopyran-4,5'-thiazolidine]-2',4'-dione | 500 mg | FC=1C=CC2=C(C1)C1(C(NC(S1)=O)=O)CCO2 | C11H8FNO3S
product | (±)-6-fluoro-8-nitro-2,3-dihydrospiro[4H-1-benzopyran-4,5'-thiazolidine]-2',4'-dione | FC=1C=C(C2=C(C1)C1(C(NC(S1)=O)=O)CCO2)[N+](=O)[O-] | C11H7FN2O5S
